US05324747
A mixture of 50.9 g (0.12 mol) of 3-hydroxy-5-(octadecyloxy)benzoic acid methyl ester, 21.6 ml (0.18 mol) of benzyl bromide and 50 g (0.36 mol) of potassium carbonate in 750 ml of DMF was stirred and heated at 85° for 65 hours. The reaction mixture was filtered and the filtrate was concentrated at reduced pressure. The residue was recrystallized from methylene chloride-methanol to give 46.3 g (75% yield, mp 61°-63°) of 3-(octadecyloxy)-5-(phenylmethoxy)benzoic acid methyl ester. The structure was confirmed by the nmr spectrum.

reactant | 3-hydroxy-5-(octadecyloxy)benzoic acid methyl ester | 0.12 mol, 50.9 g | COC(C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)O)=O | C26H44O4
reactant | benzyl bromide | 0.18 mol, 21.6 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 0.36 mol, 50 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 750 ml | CN(C)C=O | C3H7NO
product | 3-(octadecyloxy)-5-(phenylmethoxy)benzoic acid methyl ester | 46.3 g, 75% yield | COC(C1=CC(=CC(=C1)OCC1=CC=CC=C1)OCCCCCCCCCCCCCCCCCC)=O | C33H50O4
